Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
slowed speech
 
Major Surgical or Invasive Procedure:
none 
 
History of Present Illness:
___ is a ___ year old right handed woman with a 
history of breast cancer s/p lumptectomy, radiation, and 
tamoxifen, with anxiety/depression who presents with acute onset 
word finding difficulty and slow speech. Per the patient, she 
was in her usual state of health until around 5PM on the evening 
prior to presentation. Both the patient and the husband noted an 
acute onset of word finding difficulty, but more pronounced was 
the slowed speech. There was no associated weakness or other 
focal deficits. In the background, she had been feeling 2 weeks 
of intermittent lightheadedness and a room spinning sensation, 
though these had not discernible triggers. The patient notes 
that in ___, she had a lyme infection that needed antibiotics. 
She reports that her current symptoms are similar to what she 
experienced at that time. She denies weight loss, night sweats, 
etc. 

On neuro ROS, the pt denies headache, loss of vision, blurred 
vision, diplopia, dysarthria, dysphagia, lightheadedness, 
vertigo, tinnitus or hearing difficulty. Denies difficulties 
producing or comprehending speech.  Denies focal weakness, 
numbness, parasthesiae. No bowel or bladder incontinence or 
retention. Denies difficulty with gait.

On general review of systems, the pt denies recent fever or 
chills.  No night sweats or recent weight loss or gain. Denies 
cough, shortness of breath.  Denies chest pain or tightness, 
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or abdominal pain.  No recent change in bowel or bladder habits. 
 No dysuria.  Denies arthralgias or myalgias. Denies rash.
 
Past Medical History:
breast cancer s/p lumpectomy, radiation, tamoxifen
anxiety/depression
vulval intraepithelial neoplasm s/p wide excision
 
Social History:
___
Family History:
psychiatric disease   
 
Physical Exam:
========================
ADMISSION PHYSICAL EXAM: 
========================
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in 
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or 
organomegaly noted.
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses 
bilaterally.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history 
without difficulty. Attentive, able to name ___ backward without 
difficulty. Language is fluent with intact repetition and 
comprehension. Words are spoken slowly. There were no paraphasic 
errors. Pt was able to name both high and low frequency objects. 
 Able to read without difficulty. Speech was not dysarthric. 
Able to follow both midline and appendicular commands. Pt was 
able to register 3 objects and recall ___ at 5 minutes. There 
was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without 
nystagmus. Normal saccades. VFF to confrontation. Visual acuity 
___ bilaterally. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis 
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation, 
vibratory sense, proprioception throughout. No extinction to 
DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted. 
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm 
swing.  Able to walk in tandem without difficulty. Romberg 
absent.

========================
DISCHARGE PHYSICAL EXAM:
========================
Slowed speech improved since admission. Remainder of exam is 
unchanged.

 
Pertinent Results:
===============
ADMISSION LABS: 
===============
___ 01:45AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 01:45AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 01:45AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 01:45AM URINE  RBC-2 WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-1
___ 01:05AM   GLUCOSE-96 UREA N-15 CREAT-0.8 SODIUM-139 
POTASSIUM-3.9 CHLORIDE-104 TOTAL CO2-23 ANION GAP-16
___ 01:05AM   ALT(SGPT)-11 AST(SGOT)-19 ALK PHOS-42 TOT 
BILI-0.2
___ 01:05AM   ALBUMIN-3.9 CALCIUM-8.6 PHOSPHATE-3.4 
MAGNESIUM-2.2
___ 01:05AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 01:05AM   WBC-5.7 RBC-4.50 HGB-13.1 HCT-39.4 MCV-88 
MCH-29.1 MCHC-33.2 RDW-11.8 RDWSD-37.8
___ 01:05AM   NEUTS-54.7 ___ MONOS-10.0 EOS-2.6 
BASOS-0.4 IM ___ AbsNeut-3.12 AbsLymp-1.83 AbsMono-0.57 
AbsEos-0.15 AbsBaso-0.02
___ 01:05AM   PLT COUNT-188
___ 01:05AM   ___ PTT-26.2 ___

========
IMAGING: 
========
CTA ___ ___ (Outside Hospital): 
Calcifications at the right vertebral artery

Chest X-Ray (PA, Lateral) ___: 
The heart size, mediastinal, and hilar contours are normal.  The 
lungs are
clear without pleural effusion, focal consolidation, or 
pneumothorax. Multiple clips are identified in the soft tissues 
of the right upper to mid breast and right axilla, from prior 
suspected lumpectomy and axillary dissection. Osseous structures 
are unremarkable.
 
No acute cardiopulmonary process.

MR ___ with and without Contrast ___ (initial read):
Normal MR 

 
Brief Hospital Course:
___ is a ___ year old right handed woman with a 
history of breast cancer s/p lumptectomy, radiation, and 
tamoxifen, with anxiety/depression who presented with acute 
onset word finding difficulty and slow speech. Initial exam was 
notable for slowed speech without paraphasic errors or 
dysarthria and without any other focal neurological deficits. 
MRI w/wo was ordered to evaluate for any evidence of stroke or 
malignancy. Her slowed speech improved and she endorsed feeling 
back to baseline prior to discharge. Given her benign exam and 
unremarkable MR ___ imaging, her symptoms were thought to be 
secondary to dehydration and life stressors. The initial CTA 
___ and neck done at ___ revealed some calcifications 
at the base of the right vertebral artery (unrelated to her 
presenting symptoms) so we recommended that she start an aspirin 
81mg daily. We also recommended adequate hydration and 
nutrition. She already had follow-up with her primary care 
physician scheduled for several days after discharge. We 
encouraged her to attend this appointment to ensure continued 
resolution of her symptoms in the outpatient setting. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Escitalopram Oxalate 10 mg PO DAILY 
2. BuPROPion 150 mg PO DAILY 
3. TraZODone 50 mg PO QHS 
4. Tamoxifen Citrate 20 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  BuPROPion 150 mg PO DAILY  
3.  Escitalopram Oxalate 10 mg PO DAILY  
4.  Tamoxifen Citrate 20 mg PO DAILY  
5.  TraZODone 50 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
dehydration 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 

You were admitted with slow speech and lightheadedness. You had 
a scan of the blood vessels in your neck which revealed some 
calcification around one of the vessels. This finding is nothing 
to be concerned about and did not contribute to your presenting 
symptoms but we would like you to start a baby aspirin for this 
(aspirin 81mg). We performed an MRI to rule out stroke or any 
other abnormality and it was normal. Your symptoms have improved 
today. We would like you to follow up with your PCP ___ ___ weeks 
to ensure that you continue to feel better.  
 
Followup Instructions:
___